US04326055
In a manner analogous to that described in Example 1, from [1-(1,1,3,3-tetramethyl-5-indanyl)ethyl]-triphenylphosphonium bromide and 4-acetyl-benzaldehyde there can be obtained 4'-[(E)-2-(1,1,3,3-tetramethyl-5-indanyl)propenyl]-acetophenone of melting point 130°-131° C.

reactant | [1-(1,1,3,3-tetramethyl-5-indanyl)ethyl]-triphenylphosphonium bromide | [Br-].CC1(CC(C2=CC(=CC=C12)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C
reactant | 4-acetyl-benzaldehyde | C(C)(=O)C1=CC=C(C=O)C=C1 | C9H8O2
product | 4'-[(E)-2-(1,1,3,3-tetramethyl-5-indanyl)propenyl]-acetophenone | CC1(CC(C2=CC(=CC=C12)/C(=C/C1=CC=C(C=C1)C(C)=O)/C)(C)C)C | C24H28O
